*Basic 2 Stage CMOS AMP Circuit
VIN 0 201 ac 1
 

 
 

 
*Resources Statement
 
 
 
 
*R1 outp inn 0
 
*Description of the sub-circuit
 
*main circuit
 
 
 
*I3 0 outn 100u
 

 
M1 20002 0 20004 20004 pch3 w=7u l=1.8u vgs=-1.0744 vds=-663.0246m vth=-702.6073m vbs=0 vdsat=-304.2733m id=-10.0000u state=Saturati
rd_1 20002 20003 205.7143m
rs_1 20004 20005 205.7143m
capbd_1 20003 20004 6.2812f
capbs_1 20005 20004 6.2812f
gm_1 20003 20005 0 20004 48.6854u
rds_1 20003 20005 5612695.91817
cgs_1 0 20005 44.7996f
cgd_1 0 20003 1.9775f
 
M2 20006 201 20004 20004 pch3 w=7u l=1.8u vgs=-1.0744 vds=-663.0246m vth=-702.6073m vbs=0 vdsat=-304.2733m id=-10.0000u state=Saturati
rd_2 20006 20007 205.7143m
rs_2 20004 20008 205.7143m
capbd_2 20007 20004 6.2812f
capbs_2 20008 20004 6.2812f
gm_2 20007 20008 201 20004 48.6854u
rds_2 20007 20008 5612695.91817
cgs_2 201 20008 44.7996f
cgd_2 201 20007 1.9775f
 
M3 20002 20006 0 0 nch3 w=3u l=1.8u vgs=1.0114 vds=1.0114 vth=773.5036m vbs=0 vdsat=225.5047m id=10.0000u state=Saturati
rd_3 20002 20010 453.3333m
rs_3 0 20011 453.3333m
capbd_3 20010 0 2.9303f
capbs_3 20011 0 2.9303f
gm_3 20010 20011 20006 0 73.4376u
rds_3 20010 20011 9520481.88871
cgs_3 20006 20011 16.9509f
cgd_3 20006 20010 9.449651e-16
 
M4 20006 20006 0 0 nch3 w=3u l=1.8u vgs=1.0114 vds=1.0114 vth=773.5036m vbs=0 vdsat=225.5047m id=10.0000u state=Saturati
rd_4 20006 20012 453.3333m
rs_4 0 20013 453.3333m
capbd_4 20012 0 2.9303f
capbs_4 20013 0 2.9303f
gm_4 20012 20013 20006 0 73.4376u
rds_4 20012 20013 9520481.88871
cgs_4 20006 20013 16.9509f
cgd_4 20006 20012 9.449651e-16
 
M5 20014 20002 0 0 nch3 w=30u l=1.8u vgs=1.0114 vds=828.5309m vth=776.1733m vbs=0 vdsat=223.2324m id=100.0000u state=Saturati
rd_5 20014 20015 45.3333m
rs_5 0 20016 45.3333m
capbd_5 20015 0 27.4981f
capbs_5 20016 0 27.4981f
gm_5 20015 20016 20002 0 740.2028u
rds_5 20015 20016 779423.226812
cgs_5 20002 20016 170.7482f
cgd_5 20002 20015 9.5609f
 
*M6 outn nod3 0 0 nch3 w=30u l=1.8u
 

 
Cp 20002 20014 2p
 
*Cn nod3 outn 2p
 

 
Cl 20014 0 10p
 
*Vb nodb 0 0.9
 
.op
 
.options list node post=2 probe unwrap
 
.ac dec 1000 1 10x
 
*BW and PM
 
.print ac VDB(20014) VP(20014)
 
*.pz V(20014) Vin
 
.end
 
